US08912200B2
Step 1: (4-Hydroxy-3-methoxyphenyl)(4-methylpiperazin-1-yl)methanone
1-Methylpiperazine (0.58 mL, 5.2 mmol), HOBt (0.70 g, 5.2 mmol.) and EDCl (1.0 g, 5.2 mmol) were added to a solution of 4-hydroxy-3-methoxybenzoic acid (0.69 g, 4.0 mmol.) in dry DCM (40 mL). The mixture was stirred at room temperature for 16 h, washed with saturated aqueous sodium bicarbonate (20 mL), brine, dried over sodium sulphate and evaporated to give the title compound (0.96 g, 96%).

reactant | 1-Methylpiperazine | 5.2 mmol, 0.58 mL | CN1CCNCC1 | C5H12N2
reactant | HOBt | 5.2 mmol, 0.70 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 5.2 mmol, 1.0 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-hydroxy-3-methoxybenzoic acid | 4.0 mmol, 0.69 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (4-Hydroxy-3-methoxyphenyl)(4-methylpiperazin-1-yl)methanone | 0.96 g, 96% | OC1=C(C=C(C=C1)C(=O)N1CCN(CC1)C)OC | C13H18N2O3
